US05057158
B. 2,3,3-Trimethyl-1-cyclopentene-1-acetic acid (β-campholenic acid)
A solution was made of β-campholenic aldehyde (150 g) in acetone (2 liters) and cooled to 0° C. Oxidizing agent was prepared from 169 ml conc. sulfuric acid, 736 ml water and 292 g of sodium dichromate (Na2Cr2O7.2H2O). The reagent (375 ml) was added to the solution at 0° C. over a period of 30 minutes. After an additional 15 minutes at 0° C. the acetone was removed by decantation and the residual chromium salts were washed with an additional 200 ml acetone. The combined acetone solution was concentrated, the residue taken up in 10% aqueous sodium hydroxide (1 liter) and the solution washed with CH2Cl2 (2×1 liter). The aqueous phase was acidified with 25% sulfuric acid followed by extraction with CH2Cl2 (2×1 liter). Concentration of the dried CH2Cl2 solution yielded an oil (73 g) which was distilled under reduced pressure to give 53 g of a yellowish liquid; bp 102° C. @ 1.1 mm Hg; crystallized upon standing; analysis: (CW 20M fused silica column, 190° C.) 96% β-campholenic acid.

reactant | 2,3,3-Trimethyl-1-cyclopentene-1-acetaldehyde | 150 g | CC1=C(CCC1(C)C)CC=O | C10H16O
reactant | sulfuric acid | 169 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 736 ml | O | H2O
reactant | sodium dichromate | 292 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
solvent | acetone | 2 liters | CC(=O)C | C3H6O
product | 2,3,3-Trimethyl-1-cyclopentene-1-acetic acid | 73 g | CC1=C(CCC1(C)C)CC(=O)O | C10H16O2
